US08030305B2
(1-Hydroxy-quinolin-6-yl)-acetic acid methyl ester (1.0 g, 4.61 mmol) was refluxed for 25 minutes in phosphorous oxychloride (30 mL). The excess phosphorous oxychloride was evaporated, saturated sodium bicarbonate was added and the crude mixture was extracted several times with ethyl acetate. The product was purified via silica gel column chromatography in hexane:ethyl acetate (1:1) to give 0.219 g (20%) of (2-chloro-quinolin-6-yl)-acetic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 7.99 (d, 1H, J=8.4 Hz), 7.93 (d, 1H, J=8.8 Hz), 7.63 (m, 1H), 7.60 (dd, 1H, J=2.0, 8.4 Hz), 7.30 (d, 1H, J=8.8 Hz), 3.73 (s, 2H), 3.64 (s, 3H).

reactant | (1-Hydroxy-quinolin-6-yl)-acetic acid methyl ester | 4.61 mmol, 1.0 g | COC(CC=1C=C2C=CCN(C2=CC1)O)=O | C12H13NO3
reactant | phosphorous oxychloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (2-chloro-quinolin-6-yl)-acetic acid methyl ester | 0.219 g, 20% | COC(CC=1C=C2C=CC(=NC2=CC1)Cl)=O | C12H10ClNO2
